US05236619
In a 30 ml-reaction vessel, 2.0 g (7.3 mM) of p-(trans-4-pentylcyclohexyl)benzoic acid and 10 ml of benzene were placed. To the mixture, 1.55 g (7.4 mM) of PCl5 was added in 25 minutes to room temperature, followed by heat-refluxing for 4 hours and distilling-off of the solvent to obtain p-(trans-4-pentylcyclohexyl)benzoic acid chloride.

reactant | p-(trans-4-pentylcyclohexyl)benzoic acid | 7.3 mM, 2.0 g | C(CCCC)[C@@H]1CC[C@H](CC1)C1=CC=C(C(=O)O)C=C1 | C18H26O2
reactant | PCl5 | 7.4 mM, 1.55 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | p-(trans-4-pentylcyclohexyl)benzoic acid chloride | C(CCCC)[C@@H]1CC[C@H](CC1)C1=CC=C(C(=O)Cl)C=C1 | C18H25ClO
